US07217724B2
To a solution of ethyl 3-{2-[(1S,2R)-2-hydroxy-2-(4-hydroxy-phenyl)-1-(methyl) ethylamino]ethyl}-1H-indole-7-carboxylate (115 mg, 0.301 mmol) in tetrahydrofuran (10 mL) and water (5 mL) is added lithium hydroxide (36 mg, 1.51 mmol), and the mixture is stirred at room temperature for 15 hours. The pH value of the reaction solution is adjusted to pH 7 with 1N aqueous hydrochloric acid solution, and the solvent is distilled off. The residue is isolated by reversed phase column (octadecylsilyl, water→water-methanol=10:1→9:1→6:1) to give 3-{2-[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-(methyl)ethyl-amino]ethyl}-1H-indole-7-carboxylic acid (69.3 mg, 0.195 mmol, 65%).

reactant | ethyl 3-{2-[(1S,2R)-2-hydroxy-2-(4-hydroxy-phenyl)-1-(methyl) ethylamino]ethyl}-1H-indole-7-carboxylate | 0.301 mmol, 115 mg | O[C@@H]([C@H](C)NCCC1=CNC2=C(C=CC=C12)C(=O)OCC)C1=CC=C(C=C1)O | C22H26N2O4
reactant | lithium hydroxide | 1.51 mmol, 36 mg | [OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 3-{2-[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-(methyl)ethyl-amino]ethyl}-1H-indole-7-carboxylic acid | 0.195 mmol, 69.3 mg, 65% | O[C@@H]([C@H](C)NCCC1=CNC2=C(C=CC=C12)C(=O)O)C1=CC=C(C=C1)O | C20H22N2O4
